US05643958
(2) Preparation of (2S,3R)-5-oxotetrahydrofuran-2,3-dicarboxylic Acid
16.49 g of 3-tert-butyl 1,2-diethyl (1S,2R)-1-hydroxy-1,2,3-propanetricarboxylate, 100 ml of acetic acid and 50 ml of concentrated hydrochloric acid were mixed and stirred at 70° C. for 5 hours. Acetic acid and hydrochloric acid were distilled off under reduced pressure. Then, the residue was again dissolved in 100 ml of acetic acid and 50 ml of concentrated hydrochloric acid and stirred at 70° C. for 12 hours. Acetic acid and hydrochloric acid were distilled off under reduced pressure. Then, 100 ml of trifluoroacetic acid was added to the residue, followed by stirring at 60° C. for 5 hours. Trifluoroacetic acid was distilled off under reduced pressure, and the residue was crystallized from hexane-ethyl acetate to obtain 9.38 g of the above-identified compound as white powder.

reactant | 3-tert-butyl 1,2-diethyl (1S,2R)-1-hydroxy-1,2,3-propanetricarboxylate | 16.49 g | O[C@@H]([C@@H](CC(=O)OC(C)(C)C)C(=O)OCC)C(=O)OCC | C14H24O7
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | (2S,3R)-5-oxotetrahydrofuran-2,3-dicarboxylic Acid | 9.38 g | O=C1C[C@H]([C@H](O1)C(=O)O)C(=O)O | C6H6O6
